US07345178B2
5-(2-Nitro-phenyl)-thiazol-2-ylamine (100 mg, 0.452 mmol) was mixed with 10 mL of methyl ethyl ketone along with 1.5 equivalents of ethyl bromopyruvate. The reaction mixture was stirred under reflux for 5 hours. The reaction mixture was cooled to room temperature and concentrated. The crude product was purified by chromatography (Isco, gradient elution, CH2Cl2 to 9:1 CH2Cl2/MeOH) to afford 60 mg of 2-(2-nitro-phenyl)-imidazo[2,1-b]thiazole-6-carboxylic acid ethyl ester (MS, M++H=318).

reactant | 5-(2-Nitro-phenyl)-thiazol-2-ylamine | 0.452 mmol, 100 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1=CN=C(S1)N | C9H7N3O2S
reactant | ethyl bromopyruvate | 1.5 equivalents | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | methyl ethyl ketone | 10 mL | C(C)C(=O)C | C4H8O
product | 2-(2-nitro-phenyl)-imidazo[2,1-b]thiazole-6-carboxylic acid ethyl ester | 60 mg | C(C)OC(=O)C=1N=C2SC(=CN2C1)C1=C(C=CC=C1)[N+](=O)[O-] | C14H11N3O4S
